US06544985B2
[2-Amino-5-(isobutyl-methyl-amino)-4-methyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [5-(isobutyl-methyl-amino)-4-methyl-2-nitro-phenyl]-carbamic acid tert-butyl ester (Example C35) (1.48 g, 4.39 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a white solid (1.08 g, 80%).

reactant | [5-(isobutyl-methyl-amino)-4-methyl-2-nitro-phenyl]-carbamic acid tert-butyl ester | 4.39 mmol, 1.48 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C)[N+](=O)[O-])=O | C17H27N3O4
catalyst | Pd/C | [Pd] | Pd
product | [2-Amino-5-(isobutyl-methyl-amino)-4-methyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C)N)=O | C17H29N3O2
